US07858640B2
[8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of 8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-ol (0.99 g), N,N-dimethylformamide (40 mL), potassium carbonate (0.60 g) and bromoacetic acid methyl ester (0.32 mL) was stirred at room temperature for 24 hours. The solvent was removed under reduced pressure and the residue diluted with water and this mixture was extracted with ethyl acetate. The combined extracts were washed with water and saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (1:9 by volume) gave title compound as a white solid, 0.26 g.

reactant | 8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-ol | 0.99 g | ClC1=CC=C(C=2C(=C(C(=NC12)C)SC1=CC=C(C=C1)Cl)C)O | C17H13Cl2NOS
reactant | potassium carbonate | 0.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid methyl ester | 0.32 mL | COC(CBr)=O | C3H5BrO2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | [8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)SC1=CC=C(C=C1)Cl)C)=O | C20H17Cl2NO3S
